US07906546B2
To 2.47 g (9.3 mmol) of 2-benzenesulfonylmethyl-5-cyclopropyl-[1,3,4]oxadiazole in 25 mL of MeOH at 0° C., 170 μL (0.93 mmol, 0.1 eq) of a solution of sodium methoxyde (5.4 M in MeOH) were added. After 15 min, 895 mg (9.3 mmol, 1 eq) of cyclohex-2-enone were added. The reaction mixture was stirred from 0° C. to RT over 4 hours, diluted with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel with EtOAc/heptane 2:1 gave 1.48 g (44%) of 3-[benzenesulfonyl-(5-cyclopropyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclohexanone as a racemic mixture of diastereomers, white solid, MS: 361 (MH+).

reactant | 2-benzenesulfonylmethyl-5-cyclopropyl-[1,3,4]oxadiazole | 9.3 mmol, 2.47 g | C1(=CC=CC=C1)S(=O)(=O)CC=1OC(=NN1)C1CC1 | C12H12N2O3S
reactant | sodium | [Na] | Na
reactant | cyclohex-2-enone | 9.3 mmol, 895 mg, 1 eq | C1(C=CCCC1)=O | C6H8O
solvent | MeOH | 25 mL | CO | CH4O
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-[benzenesulfonyl-(5-cyclopropyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclohexanone | 1.48 g, 44% | C1(=CC=CC=C1)S(=O)(=O)C(C1CC(CCC1)=O)C=1OC(=NN1)C1CC1 | C18H20N2O4S
